### PR TITLE
[Merged by Bors] - feat(Algebra/Order/AddGroupWithTop): lemmas about LinearOrderedAddCommGroupWithTop

### PR DESCRIPTION
**Pull request by Command-Master**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/AddGroupWithTop.lean [hunk 1]
```diff
@@ -194,4 +194,32 @@ instance (priority := 100) toSubtractionMonoid : SubtractionMonoid α where
     intro v
     simp [v] at h
 
+lemma injective_add_ne_top (b : α) (h : b ≠ ⊤) : Function.Injective (fun x ↦ x + b) := by
+  intro x y h2
+  replace h2 : x + (b + -b) = y + (b + -b) := by simp [← add_assoc, h2]
+  simpa only [LinearOrderedAddCommGroupWithTop.add_neg_cancel _ h, add_zero] using h2
+
+lemma strictMono_add_ne_top (b : α) (h : b ≠ ⊤) : StrictMono (fun x ↦ x + b) := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/AddGroupWithTop.lean:202]: I think this names should be `of_ne_top`. And maybe they should also have a `left/right` in them (not sure which).
Maybe @YaelDillies can help with that.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/AddGroupWithTop.lean:202]: `strictMono_add_left_of_ne_top` 😉

File: Mathlib/Algebra/Order/AddGroupWithTop.lean [hunk 2]
```diff
@@ -194,4 +194,32 @@ instance (priority := 100) toSubtractionMonoid : SubtractionMonoid α where
...
 
+lemma injective_add_left_of_ne_top (b : α) (h : b ≠ ⊤) : Function.Injective (fun x ↦ x + b) := by
+  intro x y h2
+  replace h2 : x + (b + -b) = y + (b + -b) := by simp [← add_assoc, h2]
+  simpa only [LinearOrderedAddCommGroupWithTop.add_neg_cancel _ h, add_zero] using h2
+
+lemma strictMono_add_left_of_ne_top (b : α) (h : b ≠ ⊤) : StrictMono (fun x ↦ x + b) := by
+  apply Monotone.strictMono_of_injective
+  · apply Monotone.add_const monotone_id
+  · apply injective_add_left_of_ne_top _ h
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/AddGroupWithTop.lean:205]: Now that we've figured out the correct names, could you please add the `add_right` versions as well?

After that, this looks good to go. Thanks!

bors d+
